US08426604B2
5-[1-(4-Chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-[methyl-(2-pyrrolidin-1-yl-ethyl)amino]-thiazol-4-one was prepared from 5-[1-(4-chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-methylsulfanyl-thiazolidin-4-one and methyl-(2-pyrrolidin-1-yl-ethyl)-amine following General Procedure B.

reactant | 5-[1-(4-chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-methylsulfanyl-thiazolidin-4-one | ClC1=CC(=C(CN2N=CC3=CC(=CC=C23)C=C2C(NC(S2)SC)=O)C=C1)C(F)(F)F | C20H15ClF3N3OS2
reactant | methyl-(2-pyrrolidin-1-yl-ethyl)-amine | CNCCN1CCCC1 | C7H16N2
product | 5-[1-(4-Chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-[methyl-(2-pyrrolidin-1-yl-ethyl)amino]-thiazol-4-one | ClC1=CC(=C(CN2N=CC3=CC(=CC=C23)C=C2C(N=C(S2)N(CCN2CCCC2)C)=O)C=C1)C(F)(F)F | C26H25ClF3N5OS
